US04329347
6-[4-(Pyridyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril
32.8 gm (0.1 mol) of 6-[4-(2-pyridyl-mercapto)-butoxy]-3,4-dihydro-carbostyril were dissolved in 330 ml of glacial acetic acid, and 10.2 gm (0.105 mol) of 35% hydrogen peroxide were added. The solution was stirred for 15 hours at about 20° C. The glacial acetic acid was distilled off at 60° C. in vacuo, the residue was washed with ether, and the thus obtained crude product was recrystallized twice from xylene in the presence of activated charcoal. Colorless crystals with a melting point of 144.5°-146° C. were obtained. Yield: 27.5 gm (79.8% of theory).

reactant | 6-[4-(2-pyridyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | 0.1 mol, 32.8 gm | N1=C(C=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C18H20N2O2S
reactant | hydrogen peroxide | 0.105 mol, 10.2 gm | OO | H2O2
solvent | acetic acid | 330 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(Pyridyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril | N1=C(C=CC=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C18H20N2O3S
